US07067517B2
[4-(tert-Butyl-dimethyl-silanyloxy)-piperidin-1-yl]-imidazol-1-yl-methanone
tert-Butyldimethylsilyl chloride (30.14 g, 0.20 mol) was added to a stirred solution of (4-hydroxy-piperidin-1-yl)-imidazol-1-yl-methanone (39.05 g, 0.20 mol) in dimethylformamide (200 mL). After stirring for 3 days at room temperature, the solvent was removed by evaporation in vacuo. The residue was redissolved in dichloromethane, extracted twice with water, dried over sodium sulphate, filtered and evaporated in vacuo, yielding the title compound, which was used without further purification.

reactant | tert-Butyldimethylsilyl chloride | 0.20 mol, 30.14 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (4-hydroxy-piperidin-1-yl)-imidazol-1-yl-methanone | 0.20 mol, 39.05 g | OC1CCN(CC1)C(=O)N1C=NC=C1 | C9H13N3O2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | [4-(tert-Butyl-dimethyl-silanyloxy)-piperidin-1-yl]-imidazol-1-yl-methanone | C(C)(C)(C)[Si](OC1CCN(CC1)C(=O)N1C=NC=C1)(C)C | C15H27N3O2Si
